### PR TITLE
Reversible coercions

### PR DESCRIPTION
**Pull request by gares**
Intro:
This PR implements a feature along the lines of https://arxiv.org/abs/1103.3320 where *any* term `t` (even a type) can be elaborated to another term `s` whenever `t ~c~> t'` via regular a coercion path `c` (even of length 0) and `t' <~rc~ s` via a reversible coercion path `rc`. Reversible coercions are coercions that are also equipped with canonical inference. The elaboration is obtained by solving the unification problem `c t ==?== rc ?s` (`t'` is `c t`, `rc` is a canonical projection).

As a result a function `f` taking a record argument (eg an `eqType`) can be passed a naked type (eg `nat`) and be elaborated to `f nat_eqType` (in this case `c` has length 0, `t'` is `nat` already). In the usual coercion jargon this is `Sortclass >-> eqType` which cannot be a type theoretic function (you can't match on inhabitants of `Type`), hence the unification and its hints are defining how this "coercion" is computed.

In the presence of a hierarchy with a diamond (made of `left` `right` `bottom` `top`), a function can expect the `left` structure and be passed the an inhabitant of the `right` structure, since that term can be directly coerced to the `bottom` structure and enriched back (reverse coerced) to the `left` one. We try to compute the pushout if it exists, that is, if `bottom` has a coercion to a simpler structure `lower` (`bottom` inherits `lower`), we don't coerce to `lower` and enrich back to `left` (we try to lose as little information as possible via direct coercions).
```
       top
   /        \
left      right
  \          /
     bottom
      |
     lower
```

TODO:
- [x] fix the trace: add a constructor that means `(fun _ => the_new_term)`
- [x] attribute syntax, then filter the reverse path search using only allowed (flagged as reverse) coercions
- [x] tests for parameters
- [x] doc
- [x] changelog

MAYBE another PR:
- [x] interleave regular coercions and reverse coercions as in `(x : R) >-> S <~< T` to enrich `x` to `T` lowering it down first to `S`.

#### Overlays to be merged after the PR
* https://github.com/math-comp/math-comp/pull/853 [DO NOT MERGE]

#### Overlays to be merged before the PR
* https://github.com/math-comp/math-comp/pull/867 (except if https://github.com/coq/coq/issues/15843 is fixed first)
* https://github.com/math-comp/hierarchy-builder/pull/289

#### Overlays to be merged in sync with the PR
* https://github.com/LPCIC/coq-elpi/pull/355
* https://github.com/Mtac2/Mtac2/pull/356

CC @CohenCyril @pi8027 @SkySkimmer

### CODE REVIEW

**Comment by gares** [comment]
The bench is noise, indeed we cover a case which was a hard failure in developments with no ltac proof search.

File: pretyping/coercion.ml [hunk 1]
```diff
@@ -595,22 +588,99 @@ let inh_coerce_to_base ?loc ~program_mode env sigma j =
...
+
+let lookup_reversible_path_to_common_point env sigma ~src_canon ~src_coerce =
+  let src_canon, c_canon = class_of env sigma src_canon in
+  let src_coerce, c_coerce = class_of env sigma src_coerce in
+  let r1 = reachable_from c_canon in
+  let r2 = reachable_from c_coerce in
+  let r = ClTypSet.inter r1 r2 in
+  let r = ClTypSet.elements r in
+  (* XXX this order relation is not total ... *)
+  let r = List.sort (fun c1 c2 -> if ClTypSet.mem c1 (reachable_from c2) then 1 else -1) r in
```
Comment (gares) [inline pretyping/coercion.ml:601]: @pi8027 do you know what happens if List.sort is given an "non order" relation (like this one, which is not total and not anti-symmetric)?

Comment (proux01) [reply pretyping/coercion.ml:606]: There is a `stable_sort` close to sort https://ocaml.org/api/List.html#VALsort so `List.sort` may or may not be stable, that's unspecified.

**Comment by gares** [comment]
@charguer It seems this PR also makes your example in this [discourse post](https://coq.discourse.group/t/generalizing-coercions-to-infer-typeclass-arguments/1241)

File: pretyping/coercion.ml (hunk 1 above)
Comment (gares) [reply pretyping/coercion.ml:606]: In some sense, if it returns a permutation of the input given a random relation, it is still ok, if it asserts false... it is not

Comment (proux01) [reply pretyping/coercion.ml:606]: That should be fine (the above doc doesn't expect a total order, any preorder is fine).

Comment (proux01) [reply pretyping/coercion.ml:606]: And looking at the current implementation, it cannot throw an exception https://github.com/ocaml/ocaml/blob/trunk/stdlib/list.ml#L320

File: test-suite/success/reverse_coercions_ac.v [hunk 2]
```diff
@@ -0,0 +1,39 @@
...
+Class Inhab (A:Type) : Prop :=
+  { inhab: exists (x:A), True }.
+
+Record IType : Type := IType_make
+  { IType_type :> Type;
+    IType_inhab : Inhab IType_type }.
+
+Canonical default_IType t ct : IType := @IType_make t ct.
+
+Arguments IType_make IType_type {IType_inhab}.
```
Comment (CohenCyril) [inline test-suite/success/reverse_coercions_ac.v:12]: This is unnecessary

File: pretyping/coercion.ml (hunk 1 above)
Comment (CohenCyril) [reply pretyping/coercion.ml:606]: > There is a `stable_sort` close to sort https://ocaml.org/api/List.html#VALsort so `List.sort` may or may not be stable, that's unspecified.

@proux01 Well if we start trusting implementations rather than specifications now, we see that `sort = stable_sort`... :laughing:

File: test-suite/success/reverse_coercions_ac.v [hunk 3]
```diff
@@ -0,0 +1,39 @@
...
+   For that, we'd need to coerce [A:Type] to the type [IType]
+   by applying on-the-fly the operation [IType_make A _]. Thus, we need something like:
+   [Coercion (fun (A:Type) => IType_make A _) : Sortclass >-> IType.] 
+  Would that be possible?
+
+  I understand that [IType_type] is already a reverse coercion from [IType] to [Type],
+  but I don't see why it would necessarily cause trouble to have cycles
+  in the coercion graphs. *)
+
+
```
[the remark this answers is not in the document]
Comment (gares) [reply test-suite/success/reverse_coercions_ac.v:39]: (FTR, you can push to this branch on my GH space)

**Comment by gares** [comment]
And we broke mathcomp, but I did not investigate why.

**Comment by gares** [comment]
I'll explain my fix if you explain to me yours :-)

**Comment by CohenCyril** [comment]
> We re back on track, maybe you can play a bit more with mathcomp to test this better?

Sure, I'd like to play a bit with mathcomp on HB & categories on HB actually... but I'm struggling to compile coq-elpi on my computer :cry:

**Comment by gares** [comment]
Hum, the PR was just accepted in nixpkgs. For coq-elpi master you need a new elpi

**Comment by CohenCyril** [comment]
> For coq-elpi master you need a new elpi

Which one?

**Comment by gares** [comment]
1.14.x

**Comment by CohenCyril** [comment]
```coq
File "src/coq_elpi_vernacular.ml", line 767, characters 8-36:
767 |     try ComExtraDeps.query_extra_dep id
              ^^^^^^^^^^^^^^^^^^^^^^^^^^^^
Error: Unbound module ComExtraDeps
make[1]: *** [Makefile.coq:735: src/coq_elpi_vernacular.cmo] Error 2
make[1]: *** Waiting for unfinished jobs....
make: *** [Makefile:38: build] Error 2
````

**Comment by gares** [comment]
you are using the coq-master branch of coq elpi against coq 8.15 I guess

**Comment by gares** [comment]
No, the problem is that elpi-master moved because of a PR, but this branch was not rebased. I'm doing it now

**Comment by proux01** [comment]
@gares @CohenCyril as promised, I rebased this now that #15789 is merged: https://github.com/proux01/coq/tree/reverse-coercions-rebased
Do you want me to force-push here?

**Comment by gares** [comment]
fine with me, but let's wait @CohenCyril

**Comment by proux01** [comment]
BTW, for printing those reverse coercions, I thought we could produce terms containing both the input and elaborated terms, that are convertible with the elaborated term. This way, the term `rev_coerce elaboration_result input` is displayed as `input` while being convertible to `elaboration_result`:
```Coq
Definition RevCoercionId (T : Type) := T.  (* dummy coercion class *)
Definition rev_coerce {T T'} (x : T) (x' : RevCoercionId T')
  : RevCoercionId T := x.
Coercion rev_coerce : RevCoercionId >-> RevCoercionId.

Structure foo := { sort : Type; val : sort }.
Definition foo_nat := {| sort := nat; val := 0 |}.

Check rev_coerce foo_nat nat : foo.
(* nat : foo *)                    
                                   
Check eq_refl : rev_coerce foo_nat nat = foo_nat.

Set Printing Coercions.
Check rev_coerce foo_nat nat : foo.
(* rev_coerce foo_nat nat : foo *)

Set Printing All.
Check rev_coerce foo_nat nat : foo.
(* @rev_coerce foo Set foo_nat nat : foo *)
```
Do you want me to try that?

**Comment by gares** [comment]
Not yet, since @CohenCyril already had ideas about the display...

**Comment by proux01** [comment]
> as promised, I rebased this now that #15789 is merged: https://github.com/proux01/coq/tree/reverse-coercions-rebased Do you want me to force-push here?

@CohenCyril may I force push this rebase of the reverse coercion branch? (I haven't squashed anything, just rebased on master)

**Comment by proux01** [comment]
@CohenCyril done

File: test-suite/success/reverse_coercions_ac.v [hunk 4]
```diff
@@ -0,0 +1,37 @@
+Set Implicit Arguments.
```
Comment (CohenCyril) [inline test-suite/success/reverse_coercions_ac.v:1]: Add a header crediting @charguer for this code (https://coq.discourse.group/t/generalizing-coercions-to-infer-typeclass-arguments/1241)

**Comment by gares** [comment]
@coqbot ci minimize ci-mathcomp

**Comment by gares** [comment]
I see, I should have rebased my overlay

**Comment by proux01** [comment]
> I see, I should have rebased my overlay

No, I think this exposes a bug of `Number Notation` in conjunction with this PR. Here his a minimal example illustrating what happens in ssrAC.v:
```Coq
Require Import BinPos.

Variant syntax := Leaf : positive -> syntax.

(* in practice, composition of Leaf_of_nat, nat_of_bool and isSome *)
Definition Leaf_of_option T (u : option T) : syntax :=
  Leaf (match u with Some _ => 4%positive | None => 1%positive end).

Coercion Leaf : positive >-> syntax.
Coercion Leaf_of_option : option >-> syntax.

Check Some 2%positive : positive.  (* thanks to reverse coercion, gives 4%positive *)

Check Pos.of_num_int.  (* : Number.signed_int -> option positive *)

Check Pos.of_num_int : Number.signed_int -> positive.
(* (fun d : Number.signed_int =>                                                                                                                                                          
 match Pos.of_num_int d with                                                                                                                                                              
 | Some _ => 4%positive                                                                                                                                                                   
 | None => 1%positive                                                                                                                                                                     
 end)                                                                                                                                                                                     
:                                                                                                                                                                                         
Number.signed_int -> positive                                                                                                                                                             
     : Number.signed_int -> positive *)

Number Notation positive Pos.of_num_int Pos.to_num_uint : nat_scope.

Check 2.  (* gives Some 2 instead of 2 *)
```
What happens is that the [Number Notation command](https://coq.inria.fr/distrib/current/refman/user-extensions/syntax-extensions.html#coq:cmd.Number-Notation) expects as parsing function (here `Pos.of_num_int`) either a complete function (of type `signed_int -> positive` or a partial one (type `signed_int -> option positive`), since elaborating the first works, it considers the function to be complete but keeping the function itself (`Pos.of_num_int` returning an option), not the result of elaboration (the thing with a match above).

I think `Number Notation` should typecheck the exact given term, not try to elaborate it to something invisible to the user.

**Comment by gares** [comment]
> I think `Number Notation` should typecheck the exact given term, not try to elaborate it to something invisible to the user.

I'm on it

**Comment by gares** [comment]
> If you have any comments on your experience of the minimizer, please share them in a reply (possibly tagging `@JasonGross`).

@JasonGross is it normal that this PR received so many messages (one every 3 hours)? I did ask for minimization only once.

**Comment by Alizter** [comment]
@gares That's my fault, I think I accidentally resubmitted the minimization request last night when testing with coqbot. It appears two minimization efforts were started. @Zimmi48 are you able to stop one of the minimizations?

**Comment by gares** [comment]
Hum, this explains half of the messages. There are still 4 per minimization, I was expecting just one.

**Comment by Alizter** [comment]
That is happening because the minimization timed out therefore had to wait a bit and continue.

**Comment by gares** [comment]
> Its a balance between no feedback for hours/days and spamming the requester. I don't know which is better.

The best would be to put that link in the "I've started minimizing" message, so that one can check the status if he likes.
And no other message than "finished" or "completely failed".

**Comment by proux01** [comment]
> BTW, another option would be to use the check run tab to store more detailed information about the minimization, including this kind of things.

Indeed, anything that could make the minimizer less noisy would be welcome.

**Comment by proux01** [comment]
@gares I reduced the (only) analysis failure to:
```Coq
(* /ssreflect excerpt (unmodified) *)
Require Import Bool.
Declare ML Module "ssrmatching_plugin".
Declare ML Module "ssreflect_plugin".
Reserved Notation "(* x 'is' y 'of' z 'isn't' // /= //= *)" (at level 8).
Declare Scope ssripat_scope.
Delimit Scope ssripat_scope with ssripat.
#[universes(template)] Variant implies P Q := Implies of P -> Q.
Lemma impliesP P Q : implies P Q -> P -> Q. Proof. case; trivial. Qed.
Coercion impliesP : implies >-> Funclass.
Hint View for move/ impliesP|2.
(* ssreflect excerpt/ *)

Definition set_bij {aT} (f : aT -> aT) := True /\ forall x, f x = x.

Definition fun_set_bij {aT : Type} {f : aT -> aT} (_ : set_bij f) := f.
Coercion fun_set_bij : set_bij >-> Funclass.

Lemma inj_bij {aT : Type} {f : aT -> aT} : (forall x1, f x1 = x1) -> set_bij f.
Proof. move=> ?; split; trivial. Qed.

Lemma inj_card_eq {T} {f : T -> T} : (forall x1, f x1 = x1) -> True.
Proof.
move=> /inj_bij.
(* gives:                                                                                                                                                                                 
     (implies (forall x1 : T, f x1 = x1) (forall x1 : T, f x1 = x1) ->                                                                                                                    
     forall x1 : T, f x1 = x1) -> True                                                                                                                                                    
   whereas on 8.15, it gave:                                                                                                                                                              
     set_bij f -> True *)
```
There seems to be something going on with the `impliesP` Hint View but I don't really understand how this works so I'm a bit lost. I don't even know if the result is expected or a bug.

**Comment by gares** [comment]
Try `Set Debug "ssreflect". Set Printing All.`.
On master it prints:
```Debug: [ssreflect] tclCompileIPats input: 
Debug: [ssreflect] tclCompileIPats output: 
Debug: [ssreflect] exec: /inj_bij
Debug: [ssreflect]  on state: {{ to_clear:  to_generalize: 
name_seed: - }} goal:
  
  T : Type
  f : forall _ : T, T
  ============================
  forall _ : forall x1 : T, @eq T (f x1) x1, True
Debug: [ssreflect] piling...
Debug: [ssreflect] ..a term
Debug: [ssreflect] view
Debug: [ssreflect] interp-in: (@inj_bij _ _)
Debug: [ssreflect] interp-out: (@inj_bij ?aT ?f)
Debug: [ssreflect] tclADD_CLEAR_IF_ID: (@inj_bij ?aT ?f)
Debug:
[ssreflect] interp-in: (impliesP _ _ ((@inj_bij _ _) _)
                          _ssr_inj_constr_in_glob_)
Debug:
[ssreflect] interp-err: (impliesP _ _ ((@inj_bij _ _) _)
                           _ssr_inj_constr_in_glob_)
Debug: [ssreflect] interp-in: ((@inj_bij _ _) _ _ _ _ _ _)
Debug:
[ssreflect] interp-out: (@fun_set_bij
                           (forall (x : ?T) (x0 : ?T0) (x1 : ?T1) (x2 : ?T2),
                            ?T3) ?y
                           (@inj_bij
                              (forall (x : ?T) (x0 : ?T0) 
                                 (x1 : ?T1) (x2 : ?T2), 
                               ?T3) ?y ?e) ?y0 ?y1 
                           ?y2 ?y3 ?y4)
Debug: [ssreflect] interp-in: ((@inj_bij _ _) _ssr_inj_constr_in_glob_)
Debug: [ssreflect] interp-out: (@inj_bij T f _view_subject_)
Debug: [ssreflect] tclADD_CLEAR_IF_ID: (@inj_bij T f _view_subject_)
Debug: [ssreflect] view@finalized: (@inj_bij T f _view_subject_)
Debug: [ssreflect] done: {{ to_clear: __view_subject__ to_generalize: 
name_seed: - }}
Debug: [ssreflect] exec:  
Debug: [ssreflect]  on state: {{ to_clear: __view_subject__ to_generalize: 
name_seed: - }} goal:
  
  T : Type
  f : forall _ : T, T
  __view_subject__ : forall x1 : T, @eq T (f x1) x1
  ============================
  forall _ : @set_bij T f, True
Debug: [ssreflect] done: {{ to_clear: __view_subject__ to_generalize: 
name_seed: - }}
```

Hint views are tried blindly, also some underscores are added here and there ;-)
I guess this PR makes the attempt of using the implyP view suceed... :-/

**Comment by gares** [comment]
`_ssr_inj_constr_in_glob_` is an Ltac variable containing the subject of the view (the top of the stack). For reasons, the code works on constr_expr, but the subject is a constr... hence this hack. When elaboration works, `_ssr_inj_constr_in_glob_` becomes `_view_subject_`, which is the top of the stack.

**Comment by CohenCyril** [comment]
Sorry I rebased without noticing eveything that had been going on here I hope I didn't disrupt something :disappointed:

**Comment by proux01** [comment]
> Sorry I rebased without noticing eveything that had been going on here I hope I didn't disrupt something disappointed

No, that's fine with me, thanks for the rebase (was needed to compile coq-elpi anyway).

**Comment by CohenCyril** [comment]
> (was needed to compile coq-elpi anyway).

That's why I did it.

**Comment by proux01** [comment]
> Try `Set Debug "ssreflect". Set Printing All.`. On master it prints:

Thanks, that helps.

> I guess this PR makes the attempt of using the implyP view suceed... :-/

You're right, the first `interp-err` is now
```
interp-out: (impliesP (forall x1 : T, @eq T (f x1) x1) (forall x1 : T, @eq T (f x1) x1) ?i _view_subject_)
```

The funny thing is that
```Coq
Check @inj_bij _ _ _ : implies (forall x1, f x1 = x1) (forall x1, f x1 = x1).
```
gives
```
?i : implies (forall x1 : T, @eq T (f x1) x1) (forall x1 : T, @eq T (f x1) x1)
     : implies (forall x1 : T, @eq T (f x1) x1) (forall x1 : T, @eq T (f x1) x1)
where
?i : [T : Type  f : forall _ : T, T
     |- implies (forall x1 : T, @eq T (f x1) x1) (forall x1 : T, @eq T (f x1) x1)]
```
which looks pretty bad to me, probably a funny interaction between `Funclass` and reverse coercions, I keep digging.

**Comment by gares** [comment]
yup, that is broken :-)

**Comment by proux01** [comment]
So, it seems that in this case, `unify_leq_delay` doesn't fail, despite the problem having no solution, making reverse-coercion-search result in an uninstantiated evar.

To avoid that, I added a test that the reverse-coercion-search actually inferred something and is not just returning the evar `x` uninstantiated (my first attempt was to check that there were no uninstantiated evars in the result but that made the `reverse_coercion_ac.v` test with an `eapply` fail, so I only check that the head symbol i not an unstiantiated evar). My code is probably not ideal as I don't know the pretyping API very well. This makes analysis go through without overlay.

There remains a CI failure with UniMath which seems to be a performance issue. Once we'll have a syntax to disable reverse coercion, we should probably offer them an overlay that disable reverse coercion for all their 600+ coercions.

File: pretyping/coercion.ml [hunk 5]
```diff
@@ -582,19 +584,68 @@ let inh_coerce_to_base ?loc ~program_mode env sigma j =
...
+          apply_coercion env sigma c v v_ty
+        with Not_found ->
+          (* 2 paths: one of direct coercions, one of reversible coercions *)
+          let target_type_has_args, v_ty_has_args, reversible, direct =
+            lookup_reversible_path_to_common_point env sigma ~src_expected:target_type ~src_inferred:v_ty in
+          if not (v_ty_has_args || target_type_has_args) then raise Not_found;
+          let sigma, x = Evarutil.new_evar env sigma target_type in
+          let sigma, rev_x, _, _ = apply_coercion env sigma reversible x target_type in
+          let sigma, direct_v, _, _ = apply_coercion env sigma direct v v_ty in
+          let sigma = unify_leq_delay ~flags env sigma direct_v rev_x in
```
Comment (SkySkimmer) [inline pretyping/coercion.ml:642]: Maybe use the non-delay unify instead?

Comment (proux01) [reply pretyping/coercion.ml:642]: Wouldn't that fail if there are remaining evars? (that would make the new reverse_coercion_ac.v test in this PR fail)

Comment (SkySkimmer) [reply pretyping/coercion.ml:642]: Try and see

Comment (proux01) [reply pretyping/coercion.ml:642]: Tried, it's the exact contrary of what I feared, it doesn't fail when `x` remains uninstantiated.
Thanks for the suggestion anyway.

**Comment by gares** [comment]
This last fix seems fine. Another option would be to call the "non delay" variant of the API, eg `unify`, which asserts all unification problems are solved.

**Comment by proux01** [comment]
> Another option would be to call the "non delay" variant of the API, eg `unify`, which asserts all unification problems are solved.

Tried that but it failed, see (resolved) discussion just above with Gaëtan.

**Comment by proux01** [comment]
@CohenCyril good idea, CI green.

Note that I had to comment a line in th Makefile of coq-elpi for it to be installed properly on the CI here: https://github.com/LPCIC/coq-elpi/pull/355

**Comment by gares** [comment]
that is https://github.com/LPCIC/coq-elpi/issues/354

**Comment by proux01** [comment]
@CohenCyril @gares I have a rebase, may I force push?

**Comment by gares** [comment]
please go ahead!

File: doc/sphinx/addendum/implicit-coercions.rst [hunk 6]
```diff
@@ -82,6 +82,19 @@ To coerce an object :g:`t:C t₁..tₙ` of ``C`` towards ``D``, we have to
...
+When no coercion can be applied, reverse coercions are looked for.
+That is, when :g:`a : A'` is provided where something of type :g:`A`
+is expected, if there is a coercion :g:`f : A >-> A'` and some :g:`x :
+A` can be infered (typically through :ref:`canonicalstructures` or
+:ref:`typeclasses`) such that :g:`f x = a`, then :g:`a` is replaced by
+:g:`x`. See the :ref:`example below <example-reverse-coercion>`. If no
+:g:`f : A >-> A'` can be found, a coercion :g:`g : A' >-> A''` is
+looked for such that there are a coercion :g:`f : A >-> A''` and some
+:g:`x : A` for which :g:`f x = g a`. Only the coercions declared with
+the :attr:`reverse` attribute can be used as functions :g:`f` above.
```
Comment (gares) [inline doc/sphinx/addendum/implicit-coercions.rst:97]: I'm pretty sure Jim will do abetter job, but in the meanwhile here my 2 C:
```suggestion
A term is reverse-coerced only if it cannot be coerced (directly) to its expect type.
A coercion is said to be reversible if it is declared with with the :attr:`reverse` attribute.

In order to cast a term :g:`a : A` to type :g:`B` using a reverse coercion we:

1. find a reversible coercion :g:`f : B >-> A`

2. synthesize  some :g:`?x : B` such that :g:`f ?x = a`,
    typically through :ref:`canonicalstructures` or :ref:`typeclasses`
    
3. replace :g:`a` with the value of :g:`?x`

If there is no such reversible coercion :g:`f : B >-> A`, then we:

1. find a midpoint :g:`C` equipped with an incoming reversible coercion :g:`g : B >-> C` and
    a coercion :g:`h : A >-> C` (not necessarily reversible)
 
2. synthesize  some :g:`?x : B` such that :g:`g ?x = h a`

3. we replace :g:`a` with the value of :g:`?x`

If more than one midpoint :g:`C` exists, we try the procedure with all of them in the following order:
a midpoint :g:`C` is tried before a midpoint :g:`D` if these exists a coercion from :g:`C` to :g:`D`.
The intuition is that since coercions forget information, :g:`D` has less information that :g:`C`, and hence
inferring :g:`?x : B` from less information would be harder.

See the :ref:`example below <example-reverse-coercion>`.
```

Comment (gares) [reply doc/sphinx/addendum/implicit-coercions.rst:97]: @proux01 what do you think of this suggestion? Once we mark the PR a ready for review doc-maintainers will be notified, so this suggestion should be accepted/rejected before that.

Comment (proux01) [reply doc/sphinx/addendum/implicit-coercions.rst]: LGTM, thanks!

**Comment by Alizter** [comment]
The linter will complain about intermediate commits, you can probably clean those up and squash at the same time.

File: doc/sphinx/addendum/implicit-coercions.rst [hunk 7]
```diff
@@ -82,6 +82,36 @@ To coerce an object :g:`t:C t₁..tₙ` of ``C`` towards ``D``, we have to
 apply the coercion ``f`` to it; the obtained term :g:`f _.._ t` is
 then an object of ``D``.
 
+Reverse Coercions
+-----------------
+
+A term is reverse-coerced only if it cannot be coerced (directly) to its expect type.
+A coercion is said to be reversible if it is declared with with the :attr:`reverse` attribute.
```
Comment (jfehrle) [inline doc/sphinx/addendum/implicit-coercions.rst:89]: Can you reword to begin with "Reverse coercions are/allow/..." - a definition?
The second sentence is not very helpful as written--almost a tautology.

File: doc/sphinx/addendum/implicit-coercions.rst [hunk 8]
```diff
@@ -82,6 +82,36 @@ To coerce an object :g:`t:C t₁..tₙ` of ``C`` towards ``D``, we have to
...
+
+In order to cast a term :g:`a : A` to type :g:`B` using a reverse coercion we:
```
Comment (jfehrle) [inline doc/sphinx/addendum/implicit-coercions.rst:91]:
```suggestion
In order to cast a term :g:`a : A` to type :g:`B` using a reverse coercion, Coq:
```

And change to singular verbs for 1-3.

File: doc/sphinx/addendum/implicit-coercions.rst [hunk 9]
```diff
@@ -82,6 +82,36 @@ To coerce an object :g:`t:C t₁..tₙ` of ``C`` towards ``D``, we have to
...
+
+1. find a reversible coercion :g:`f : B >-> A`
+
+2. synthesize  some :g:`?x : B` such that :g:`f ?x = a`,
+   typically through :ref:`canonicalstructures` or :ref:`typeclasses`
+
+3. replace :g:`a` with the value of :g:`?x`
```
Comment (jfehrle) [inline doc/sphinx/addendum/implicit-coercions.rst:98]: Probably could be bullets.  We don't use numbered lists very much in the doc.  And perhaps it could just be a long sentence--it's not a series of steps the user must follow, e.g. "Coq finds ..., then synthesizes ... and finally replaces ..."

File: doc/sphinx/addendum/implicit-coercions.rst [hunk 10]
```diff
@@ -82,6 +82,36 @@ To coerce an object :g:`t:C t₁..tₙ` of ``C`` towards ``D``, we have to
...
+
+If there is no such reversible coercion :g:`f : B >-> A`, then we:
```
Comment (jfehrle) [inline doc/sphinx/addendum/implicit-coercions.rst:100]:
```suggestion
If no reversible coercion :g:`f : B >-> A` is found, then Coq:
```

And make the verbs in 1-3 singular

File: doc/sphinx/addendum/implicit-coercions.rst [hunk 11]
```diff
@@ -82,6 +82,36 @@ To coerce an object :g:`t:C t₁..tₙ` of ``C`` towards ``D``, we have to
...
+
+1. find a midpoint :g:`C` equipped with an incoming reversible coercion :g:`g : B >-> C` and
+   a coercion :g:`h : A >-> C` (not necessarily reversible)
+ 
+2. synthesize  some :g:`?x : B` such that :g:`g ?x = h a`
+
+3. replace :g:`a` with the value of :g:`?x`
```
Comment (jfehrle) [inline doc/sphinx/addendum/implicit-coercions.rst:107]: Perhaps you can word in a way so that it's not necessary to repeat item 3 in both lists?

File: doc/sphinx/addendum/implicit-coercions.rst [hunk 12]
```diff
@@ -82,6 +82,36 @@ To coerce an object :g:`t:C t₁..tₙ` of ``C`` towards ``D``, we have to
...
+1. find a reversible coercion :g:`f : B >-> A`
+
+2. synthesize  some :g:`?x : B` such that :g:`f ?x = a`,
+   typically through :ref:`canonicalstructures` or :ref:`typeclasses`
+
+3. replace :g:`a` with the value of :g:`?x`
+
+If there is no such reversible coercion :g:`f : B >-> A`, then we:
+
+1. find a midpoint :g:`C` equipped with an incoming reversible coercion :g:`g : B >-> C` and
```
Comment (jfehrle) [inline doc/sphinx/addendum/implicit-coercions.rst:102]: Probably should state/define what a midpoint is (can be simple, not that formal).  I don't recall seeing that in the PR.

File: doc/sphinx/addendum/implicit-coercions.rst [hunk 13]
```diff
@@ -82,6 +82,36 @@ To coerce an object :g:`t:C t₁..tₙ` of ``C`` towards ``D``, we have to
...
+   a coercion :g:`h : A >-> C` (not necessarily reversible)
+ 
+2. synthesize  some :g:`?x : B` such that :g:`g ?x = h a`
+
+3. replace :g:`a` with the value of :g:`?x`
+
+If more than one midpoint :g:`C` exists, we try the procedure with all of them in the following order:
+a midpoint :g:`C` is tried before a midpoint :g:`D` if there exists a coercion from :g:`C` to :g:`D`.
+The intuition is that since coercions forget information, :g:`D` has less information that :g:`C`, and hence
+inferring :g:`?x : B` from :g:`h a : D` would be harder.
```
Comment (jfehrle) [inline doc/sphinx/addendum/implicit-coercions.rst:112]:
```suggestion
If there's more than one midpoint, such as :g:`C` and :g:`D`, Coq tries :g:`C` before :g`D` if
there is a coercion from :g:`C` to :g:`D`.
The intuition is that since coercions forget information, :g:`D` has less information that :g:`C`, and hence
inferring :g:`?x : B` from :g:`h a : D` would be harder.
```

If this is on a graph, then the order isn't entirely specified, is it?  I think needs a bit more clarity on that.
Make sure I've not misstated the behavior.

File: doc/sphinx/addendum/implicit-coercions.rst [hunk 14]
```diff
@@ -381,6 +422,51 @@ There are three situations:
...
+    Definition test (s : S) := sstuff s.
+    Canonical Structure S_nat := {| ssort := nat; sstuff := 0; |}.
+
+  .. coqtop:: all
+
+    Check test (nat : Type).
+
+.. _example-reverse-coercion-attribute:
+
+.. example:: Reverse coercions (reverse attribute).
```
Comment (jfehrle) [inline doc/sphinx/addendum/implicit-coercions.rst:444]:
```suggestion
.. example:: Reverse coercions using the :attr:`reverse` attribute
```

File: doc/sphinx/addendum/implicit-coercions.rst [hunk 15]
```diff
@@ -381,6 +422,51 @@ There are three situations:
     Check (b 0).
     Unset Printing Coercions.
 
+.. _example-reverse-coercion:
+
+.. example:: Reverse coercions.
```
Comment (jfehrle) [inline doc/sphinx/addendum/implicit-coercions.rst:427]:
```suggestion
.. example:: Reverse coercions
```

File: doc/sphinx/addendum/implicit-coercions.rst [hunk 16]
```diff
@@ -381,6 +422,51 @@ There are three situations:
...
+
+  .. coqtop:: in
```
Comment (jfehrle) [inline doc/sphinx/addendum/implicit-coercions.rst:429]:
```suggestion
  Notice the :n:`:>` on `ssort`.
```

File: doc/sphinx/addendum/implicit-coercions.rst [hunk 17]
```diff
@@ -381,6 +422,51 @@ There are three situations:
...
+    Canonical Structure S_nat := {| ssort := nat; sstuff := 0; |}.
+
+  .. coqtop:: all
+
+    Check test (nat : Type).
+
+.. _example-reverse-coercion-attribute:
+
+.. example:: Reverse coercions (reverse attribute).
+
```
Comment (jfehrle) [inline doc/sphinx/addendum/implicit-coercions.rst:445]:
```suggestion
Notice there is no `:>` on `ssort'` and the added :cmd:`Coercion` compared to the previous example
```

Would be so nice if we could boldface parts of examples.  You can put comments in `.. coqtop::` but only between Coq sentences.

File: doc/sphinx/addendum/implicit-coercions.rst [hunk 18]
```diff
@@ -381,6 +422,51 @@ There are three situations:
...
+    Structure S' := {
+      ssort' : Type;
+      sstuff' : ssort';
+    }.
+    Coercion ssort' : S' >-> Sortclass.
+    Definition test' (s : S') := sstuff' s.
+    Canonical Structure S_nat' := {| ssort' := nat; sstuff' := 0; |}.
+
+  This is the same as the previous example, except that, by default,
+  the reverse attribute in unset:
```
Comment (jfehrle) [inline doc/sphinx/addendum/implicit-coercions.rst:457]:
```suggestion
  Since there's no `:>` on the definition of `ssort'`, the :attr:`reverse` attribute is not set:
```

Don't need to say "no :>" in two places, take your pick.

**Review by jfehrle — COMMENTED** [review]
Several suggestions

**Comment by jfehrle** [comment]
@Zimmi48 FWIW I noticed that clicking on the refman artifact link (https://coq.gitlab.io/-/coq/-/jobs/2265100666/artifacts/_install_ci/share/doc/coq/sphinx/html/index.html) didn't render properly--it showed only raw HTML in courier, i.e.:

```
<!DOCTYPE html>
<!--[if IE 8]><html class="no-js lt-ie9" lang="en" > <![endif]-->
<!--[if gt IE 8]><!--> <html class="no-js" lang="en" > <!--<![endif]-->
<head>
  <meta charset="utf-8">
  :
```

**Comment by Zimmi48** [comment]
Yes, it's a new GitLab issue: https://gitlab.com/gitlab-org/gitlab/-/issues/357078

**Comment by gares** [comment]
@proux01 if you don't mind I take care of addressing all doc issues (tomorrow).

File: doc/sphinx/addendum/implicit-coercions.rst (hunk 13 above)
Comment (gares) [reply doc/sphinx/addendum/implicit-coercions.rst:112]: Right, I should mention that this is well defined only if the graph is a semilattice CC @CohenCyril

**Comment by gares** [comment]
@jfehrle I did apply all suggestions I could and reworded the text.

One suggestion is about changing the grammar in addition to the doc, I did not touch it. That is for you @proux01 (I think you wrote that code).

**Comment by gares** [comment]
After a coffee break discussion with @CohenCyril we agreed that the name of the feature is not very good. the last commit (which can be reverted) uses consistently in the code and in the doc the term "reversible" in place of "revert". It also adds to the doc a line explaining what we "reverse". @proux01 does this look good to you?

File: test-suite/success/reverse_coercions.v [hunk 19]
```diff
@@ -0,0 +1,188 @@
...
+      #[reversible=no] bla :> blu
+     }
+
+   is given
+*)
+
+(* Declaring/undeclaring a reverse coercion after the facts:
+
+    #[reversible] Coercion sort.
+    #[reversible=yey] Coercion sort.
```
[the remark this answers is not in the document]
Comment (gares) [reply test-suite/success/reverse_coercions.v]: oops

File: vernac/g_vernac.mlg [hunk 20]
```diff
@@ -744,18 +744,19 @@ GRAMMAR EXTEND Gram
           { VernacCanonical CAst.(make ~loc @@ ByNotation ntn) }
 
       (* Coercions *)
-      | IDENT "Coercion"; qid = global; u = OPT univ_decl; d = def_body ->
-          { let s = coerce_reference_to_id qid in
-          VernacDefinition ((NoDischarge,Coercion),((CAst.make ?loc:qid.CAst.loc (Name s)),u),d) }
+      | IDENT "Coercion"; qid = global; ud = OPT [ u = OPT univ_decl; d = def_body -> { u, d } ] ->
```
[the remark this answers is not in the document]
Comment (proux01) [reply vernac/g_vernac.mlg:747]: Indeed, I was unable to improve the actual grammar as I don't master the constraints of the parsing engine.
I thus used `common.edit_mlg` as you suggested to make it look better in the refman (while hopefully being equivalent).

File: doc/sphinx/addendum/implicit-coercions.rst [hunk 21]
```diff
@@ -114,14 +144,24 @@ Declaring Coercions
...
   The first form declares the construction denoted by :token:`reference` as a coercion between
   the two given classes.  The second form defines :token:`ident`
   just like :cmd:`Definition` :n:`@ident {? @univ_decl } @def_body`
   and then declares :token:`ident` as a coercion between it source and its target.
   Both forms support the :attr:`local` attribute, which makes the coercion local to the current section.
 
+  :n:`{? {? @univ_decl } @def_body }`
+    If unspecified, :n:`@ident` must already be a coercion.
+    This enables to modify the :attr:`reverse` attribute of :n:`@ident`.
+    See the :ref:`example below <example-reverse-coercion-attribute>`.
```
[the remark this answers is not in the document]
Comment (proux01) [reply doc/sphinx/addendum/implicit-coercions.rst]: Thanks, I kept m`modifying`  as the syntax can be used to either set or unset the `reversible` attribute.
I withdrawn the `later on` as it modifies the attribute immediately.

**Comment by gares** [comment]
I broke the test suite for a silly reason, I'll fix it tomorrow

File: vernac/g_vernac.mlg (hunk 20 above)
[the remark this answers is not in the document]
Comment (jfehrle) [reply vernac/g_vernac.mlg:747]: Actually, my suggestion was wrong, sorry--the change would allow a univ_decl without a def_body while the original would not.  You'll want to undo some of the `common.edit_mlg` change.

File: doc/tools/docgram/common.edit_mlg [hunk 22]
```diff
@@ -714,10 +714,10 @@ gallina_ext: [
 
 | DELETE "Coercion" global ":" class_rawexpr ">->" class_rawexpr
 | REPLACE "Coercion" by_notation ":" class_rawexpr ">->" class_rawexpr
-| WITH "Coercion" smart_global ":" class_rawexpr ">->" class_rawexpr
+| WITH "Coercion" smart_global OPT [ ":" class_rawexpr ">->" class_rawexpr ]
```
Comment (jfehrle) [inline doc/tools/docgram/common.edit_mlg:717]: Think this is incorrect, should be reverted--you didn't change this production in the mlg file.

File: vernac/g_vernac.mlg [hunk 23]
```diff
@@ -744,18 +744,19 @@ GRAMMAR EXTEND Gram
...
          s = class_rawexpr; ">->"; t = class_rawexpr ->
            { VernacIdentityCoercion (f, s, t) }
       | IDENT "Coercion"; qid = global; ":"; s = class_rawexpr; ">->";
          t = class_rawexpr ->
-          { VernacCoercion (CAst.make ~loc @@ AN qid, s, t) }
+          { VernacCoercion (CAst.make ~loc @@ AN qid, Some(s, t)) }
       | IDENT "Coercion"; ntn = by_notation; ":"; s = class_rawexpr; ">->";
          t = class_rawexpr ->
-          { VernacCoercion (CAst.make ~loc @@ ByNotation ntn, s, t) }
+          { VernacCoercion (CAst.make ~loc @@ ByNotation ntn, Some (s, t)) }
```
Comment (jfehrle) [inline vernac/g_vernac.mlg:759]: You didn't change the grammar here.  Did you mean to?

File: doc/sphinx/addendum/implicit-coercions.rst [hunk 24]
```diff
@@ -122,6 +149,18 @@ Declaring Coercions
   and then declares :token:`ident` as a coercion between it source and its target.
   Both forms support the :attr:`local` attribute, which makes the coercion local to the current section.
 
+  :n:`{? : @class >-> @class }`
+    The source and target classes of the coercion.
+    If unspecified, :n:`@ident` must already be a coercion, which
+    enables modifying the :attr:`reversible` attribute of :n:`@ident`.
+    See the :ref:`example <example-reversible-coercion-attribute>` below.
```
Comment (jfehrle) [inline doc/sphinx/addendum/implicit-coercions.rst:156]: As I mention elsewhere, this doesn't match the mlg file.

File: doc/sphinx/addendum/implicit-coercions.rst [hunk 25]
```diff
@@ -381,6 +421,55 @@ There are three situations:
...
+  .. coqtop:: all
+
+    Check test (nat : Type).
+
+.. _example-reversible-coercion-attribute:
+
+.. example:: Reverse coercions using the :attr:`reversible` attribute
+
+  Notice there is no `:>` on `ssort'` and the added :cmd:`Coercion` compared
+  to the previous example
```
Comment (jfehrle) [inline doc/sphinx/addendum/implicit-coercions.rst:448]:
```suggestion
  to the previous example.
```

**Review by jfehrle — COMMENTED** [review]
Please get the doc and mlg grammars consistent.

File: vernac/g_vernac.mlg (hunk 20 above)
[the remark this answers is not in the document]
Comment (proux01) [reply vernac/g_vernac.mlg:747]: No worries, that's one of the reason why I edited `common.edit_mlg` differently. There should be no need to undo anything.

File: doc/sphinx/addendum/implicit-coercions.rst [hunk 26]
```diff
@@ -82,6 +82,33 @@ To coerce an object :g:`t:C t₁..tₙ` of ``C`` towards ``D``, we have to
...
 then an object of ``D``.
 
+Reversible Coercions
+--------------------
+
+When a term cannot be coerced (directly) to its expected type, Coq tries to
+use a reversible coercion (see the :attr:`reversible` attribute). Intuitively
+Coq synthesizes a new term, of the right type, which can be coerced
+to the original one. The new term is obtained by reversing the coercion, that
+is guessing its input given the output.
```
[the remark this answers is not in the document]
Comment (gares) [reply doc/sphinx/addendum/implicit-coercions.rst:92]: later, I mention type classes and canonical structures as the mechanism of inference

File: doc/tools/docgram/common.edit_mlg (hunk 22 above)
Comment (proux01) [reply doc/tools/docgram/common.edit_mlg:717]: In fact, I'd like
```
"Coercion" ident OPT [ ":" class_rawexpr ">->" class_rawexpr ]
"Coercion" ident OPT univ_decl def_body
```
but with the limitations of the parsing engine, I'm not able to write it that way in `g_vernac.mlg`, so I wrote there the equivalent
```
"Coercion" ident OPT [ OPT univ_decl def_body ]
"Coercion" ident ":" class_rawexpr ">->" class_rawexpr
```
Maybe we should present it in the doc as three versions of the command?
```
"Coercion" ident ":" class_rawexpr ">->" class_rawexpr  (* declare a coercion *)
"Coercion" ident OPT univ_decl def_body  (* combine definition and the previous *)
"Coercion" ident  (* edit an existing coercion *)
```

File: vernac/g_vernac.mlg (hunk 23 above)
Comment (proux01) [reply vernac/g_vernac.mlg:759]: Yes and no, c.f. above comment.

File: doc/sphinx/addendum/implicit-coercions.rst [hunk 27]
```diff
@@ -82,6 +82,33 @@ To coerce an object :g:`t:C t₁..tₙ` of ``C`` towards ``D``, we have to
...
+Coq synthesizes a new term of the right type that can be coerced
+to the original one. The new term is obtained by reversing the coercion, that
+is guessing its input given the output.
+
+More precisely, in order to cast a term :g:`a : A` to type :g:`B`, Coq
+finds a reversible coercion :g:`f : B >-> A`, then synthesizes some :g:`?x : B`
+such that :g:`f ?x = a` (typically through :ref:`canonicalstructures` or
+:ref:`typeclasses`) and finally replaces :g:`a` with the value of :g:`?x`.
+
+If Coq doesn't find a reversible coercion :g:`f : B >-> A` is found, then it
```
Comment (gares) [inline doc/sphinx/addendum/implicit-coercions.rst:99]:
```suggestion
If Coq doesn't find a reversible coercion :g:`f : B >-> A`, then it
```

**Comment by gares** [comment]
thanks for the suggestions, doc seems fine modulo the grammar thingy

File: doc/tools/docgram/common.edit_mlg (hunk 22 above)
Comment (proux01) [reply doc/tools/docgram/common.edit_mlg]: Done that, hope this makes the thing more readable in the refman.

**Comment by Alizter** [comment]
I would have expected the following to work:

```coq

Set Primitive Projections.

Class IsPointed (A : Type) := point : A.

Record pType : Type := {
  pointed_type : Type ;
  ispointed_pointed_type : IsPointed pointed_type ;
}.
#[reversible]
Coercion pointed_type : pType >-> Sortclass.

Axiom A : Type.
#[export]
Instance a : IsPointed A. Proof. Admitted.

Axiom lemma_about_ptype : forall (X : pType), Type.

Fail Check (A : pType).
Check (Build_pType A _ : pType).

```

Am I doing something wrong?

**Comment by proux01** [comment]
How would the `pType` be infered? if I try
```Coq
Check eq_refl : pointed_type _ = A.
```
this indeed fails.

**Comment by proux01** [comment]
Either Canonical Structure or Typeclasses, in fact anything that can solve the unification problem `pointed_type ?x == A`.

**Comment by Alizter** [comment]
Ah OK the following works:
```
Set Primitive Projections.

Class IsPointed (A : Type) := point : A.

Record pType : Type := {
  pointed_type : Type ;
  ispointed_pointed_type : IsPointed pointed_type ;
}.
#[reversible]
Coercion pointed_type : pType >-> Sortclass.

Canonical Structure Build_pType' (A : Type) (a : A) := Build_pType A a.

Axiom A : Type.
#[export]
Instance a : IsPointed A. Proof. Admitted.

Axiom lemma_about_ptype : forall (X : pType), Type.

Check (A : pType).
Check (Build_pType A _ : pType).

```
Is there a way to declare Build_pType as canonical without redeclaring?

**Comment by proux01** [comment]
Maybe `Canonical Build_pType` or `Existing Instance Build_pType` (replacing `Record` with `Class` above).

**Comment by Alizter** [comment]
Declaring pType as a Class can get out of hand, especially if there are a lot of other instances around. Is `Canonical Build_pType` expected to work? I just get:

```
Could not declare a canonical structure Build_pType. Expected an instance of a record or structure.
```

**Comment by proux01** [comment]
Record and Structure are synonym (as well as Canonical Structure and Canonical).
> we can continue on Zulip if you like.
Feel free to start a stream there.

File: doc/tools/docgram/common.edit_mlg (hunk 22 above)
Comment (jfehrle) [reply doc/tools/docgram/common.edit_mlg]: Would you keep this as two entries?  We use multiple entries only when we're more or less forced into it, which is not the case here.  Then add some text explaining what it means if the class_rawexpr is not present.

File: doc/sphinx/addendum/implicit-coercions.rst [hunk 28]
```diff
@@ -114,13 +141,23 @@ Declaring Coercions
...
   The first form declares the construction denoted by :token:`reference` as a coercion between
-  the two given classes.  The second form defines :token:`ident`
-  just like :cmd:`Definition` :n:`@ident {? @univ_decl } @def_body`
-  and then declares :token:`ident` as a coercion between it source and its target.
+  the two given classes.  The second form defines :token:`ident_decl`
+  just like :cmd:`Definition` :n:`@ident_decl @def_body`
+  and then declares :token:`ident_decl` as a coercion between it source and its target.
   Both forms support the :attr:`local` attribute, which makes the coercion local to the current section.
+  The third form enables to modify the :attr:`reversible` attribute of
+  the already declared coercion :token:`qualid`.
```
Comment (jfehrle) [inline doc/sphinx/addendum/implicit-coercions.rst:153]:
```suggestion
  The third form enables modifying the :attr:`reversible` attribute of
  the already declared coercion :token:`qualid`.
```

I get the impression that French may always use the infinitive where English uses the gerund.  I see this kind of typo often :-(.

File: doc/sphinx/addendum/implicit-coercions.rst [hunk 29]
```diff
@@ -82,6 +82,33 @@ To coerce an object :g:`t:C t₁..tₙ` of ``C`` towards ``D``, we have to
...
+More precisely, in order to cast a term :g:`a : A` to type :g:`B`, Coq
+finds a reversible coercion :g:`f : B >-> A`, then synthesizes some :g:`?x : B`
+such that :g:`f ?x = a` (typically through :ref:`canonicalstructures` or
+:ref:`typeclasses`) and finally replaces :g:`a` with the value of :g:`?x`.
+
+If Coq doesn't find a reversible coercion :g:`f : B >-> A`, then it
+looks for a coercion class :g:`C` equipped with an incoming reversible coercion
+:g:`g : B >-> C` and a coercion :g:`h : A >-> C` (not necessarily reversible),
+then synthesizes some :g:`?x : B` such that :g:`g ?x = h a`, and finally
+replaces :g:`a` with the value of :g:`?x`
```
Comment (jfehrle) [inline doc/sphinx/addendum/implicit-coercions.rst:103]:
```suggestion
replaces :g:`a` with the value of :g:`?x`.
```

**Review by jfehrle — COMMENTED** [review]
Please adjust the grammar in the doc.  Other than that, stick it with a fork, it's done.

File: doc/changelog/02-specification-language/15693-reverse-coercions.rst [hunk 30]
```diff
@@ -0,0 +1,7 @@
+- **Added:**
+  Reversible coercions enable type casts which cannot be
```
[the remark this answers is not in the document]
Comment (SkySkimmer) [reply doc/changelog/02-specification-language/15693-reverse-coercions.rst:2]: Cast is the `:` syntax, coercion is part of elaboration imo

File: doc/tools/docgram/common.edit_mlg (hunk 22 above)
Comment (proux01) [reply doc/tools/docgram/common.edit_mlg]: Sorry, what's unclear with "The third form..." just below the ".. cmd::"?

File: doc/changelog/02-specification-language/15693-reverse-coercions.rst (hunk 30 above)
[the remark this answers is not in the document]
Comment (jfehrle) [reply doc/changelog/02-specification-language/15693-reverse-coercions.rst:2]: OK, someday we'll describe the difference in the doc.

**Comment by proux01** [comment]
> Please adjust the grammar in the doc. Other than that, stick it with a fork, it's done.

Sorry I'm a bit lost here, what do you want to adjust? What improvement to the current state would you like? I'm a bit short of propositions here.

File: doc/tools/docgram/common.edit_mlg (hunk 22 above)
Comment (jfehrle) [reply doc/tools/docgram/common.edit_mlg]: We avoid using multiple entries unless we absolutely must.  We use 2 in a few places.  I'm not sure if we use 3 anywhere.

**Comment by jfehrle** [comment]
> Sorry I'm a bit lost here, what do you want to adjust?

Use only 2 entries for the `Coercion` description in the doc.

**Comment by gares** [comment]
I'm taking care of the rebase right now

**Comment by gares** [comment]
before pushing anything more here, it is imperative we squash! I'll let CI run, and if I did not break the PR I'll do it myself.

**Comment by Alizter** [comment]
Looks like overlays have to be rebased too?

**Comment by gares** [comment]
Done rebasing and squashing this PR. I've no time for doing the overlays today.

**Comment by proux01** [comment]
Overlays rebased, the jasmin failure is likely unrelated: https://github.com/jasmin-lang/jasmin/pull/98

**Comment by gares** [comment]
Great! dear @coq/pretyper-maintainers we need an assignee!

**Comment by gares** [comment]
ping

**Comment by Alizter** [comment]
@gares Can you rebase so that the CI is green again?

File: doc/sphinx/addendum/implicit-coercions.rst [hunk 31]
```diff
@@ -113,18 +140,26 @@ term consists of the successive application of its coercions.
...
+    The source and target classes of the coercion.
+    If unspecified, :n:`@reference` must already be a coercion, which
+    enables modifying the :attr:`reversible` attribute of :n:`@reference`.
+    See the :ref:`example <example-reversible-coercion-attribute>` below.
+
+  .. attr:: reversible{? = {| yes | no } }
+     :name: reversible
+
+     Allows the coercion to be used as a reversible coercion.  The default is
+     :n:`no` except for fields specified using :g:`:>` in :cmd:`Record`.
```
Comment (Zimmi48) [inline doc/sphinx/addendum/implicit-coercions.rst:162]: "The default is no" is likely to mislead the uninformed reader who may think that `reversible` means `reversible = no` (when in fact it means `reversible = yes`).

Instead of writing "Allows...", I recommend beginning by ``This :term:`attribute` allows`` (and same thing for the `nonuniform` attribute below BTW) because this gives an opportunity to the user who doesn't know how attribute work to click the link and read about it.

**Comment by gares** [comment]
I will rebase when there will be an assignee

**Comment by Alizter** [comment]
@gares Do you need just an assignee or also a review from @coq/pretyper-maintainers? If just the former, I can assign.

**Comment by gares** [comment]
well we need both. I will rebase tomorrow since I have another change to make to the doc.

File: doc/sphinx/addendum/implicit-coercions.rst (hunk 31 above)
Comment (gares) [reply doc/sphinx/addendum/implicit-coercions.rst]: done

**Comment by gares** [comment]
rebased and doc updated

**Comment by gares** [comment]
@mattam82 @maximedenes @pi8027 it would be nice to have some feedback on this PR

**Comment by mattam82** [comment]
In short, I'm all for it, especially since it also helps bridge the gap between packed and unpacked classes, AFAIU.

File: doc/sphinx/addendum/implicit-coercions.rst [hunk 32]
```diff
@@ -113,18 +140,27 @@ term consists of the successive application of its coercions.
...
+  :n:`{? : @class >-> @class }`
+    The source and target classes of the coercion.
+    If unspecified, :n:`@reference` must already be a coercion, which
+    enables modifying the :attr:`reversible` attribute of :n:`@reference`.
+    See the :ref:`example <example-reversible-coercion-attribute>` below.
+
+  .. attr:: reversible{? = {| yes | no } }
+     :name: reversible
+
+     This `term`:attribute allows the coercion to be used as a reversible
```
Comment (Zimmi48) [inline doc/sphinx/addendum/implicit-coercions.rst:161]:
```suggestion
     This :term:`attribute` allows the coercion to be used as a reversible
```

Comment (Alizter) [reply doc/sphinx/addendum/implicit-coercions.rst:161]: It would also be nice to link to the reversible coercions section here. When searching for reversible, this attribute is the first result.

File: doc/sphinx/addendum/implicit-coercions.rst [hunk 33]
```diff
@@ -390,6 +427,55 @@ There are three situations:
     Check (b 0).
     Unset Printing Coercions.
 
+.. _example-reversible-coercion:
+
+.. example:: Reverse coercions
```
Comment (Alizter) [inline doc/sphinx/addendum/implicit-coercions.rst:432]:
```suggestion
.. example:: Reversible coercions
```

File: doc/sphinx/addendum/implicit-coercions.rst [hunk 34]
```diff
@@ -390,6 +427,55 @@ There are three situations:
...
+    Definition test (s : S) := sstuff s.
+    Canonical Structure S_nat := {| ssort := nat; sstuff := 0; |}.
+
+  .. coqtop:: all
+
+    Check test (nat : Type).
+
+.. _example-reversible-coercion-attribute:
+
+.. example:: Reverse coercions using the :attr:`reversible` attribute
```
Comment (Alizter) [inline doc/sphinx/addendum/implicit-coercions.rst:451]:
```suggestion
.. example:: Reversible coercions using the :attr:`reversible` attribute
```

File: dev/ci/user-overlays/15693-gares-reverse-coercions.sh [hunk 35]
```diff
@@ -0,0 +1,4 @@
+overlay elpi https://github.com/proux01/coq-elpi coq_15693 15693
+overlay hierarchy_builder https://github.com/gares/hierarchy-builder reverse-coercions 15693
+overlay mathcomp https://github.com/gares/math-comp reverse-coercions 15693
```
Comment (CohenCyril) [inline dev/ci/user-overlays/15693-gares-reverse-coercions.sh:3]: I am not sure why there is a mathcomp overlay. The [first commit](math-comp/math-comp#6644dcdc6820aaa151e34b0cbadf666aba259a55) of the overlay is merely a test, and will not be merged as such (or in the short-term). @proux01 is the [second commit](math-comp/math-comp#126e5d10966901e627c726e104c04f406bd9436e) still necessary? If so is it backward compatible? (If it is necessary and not backward compatible it's very bad because it would mean the next version of mathcomp will be compatible only with coq 8.16)

Comment (proux01) [reply dev/ci/user-overlays/15693-gares-reverse-coercions.sh:3]: The overlay was merely there to test the PR, mathcomp will keep compiling without change once the current PR is merged.
The second commit was only there so that the test kept compiling when the default reversible status of coercions (not defined with `:>` in records) was changed to `no` in the current PR.

Comment (CohenCyril) [reply dev/ci/user-overlays/15693-gares-reverse-coercions.sh:3]: @proux01 thanks for the information

**Comment by Alizter** [comment]
@coq/pretyper-maintainers ping

**Comment by gares** [comment]
ping

**Review by mattam82 — COMMENTED** [review]
The code looks good to me, there's just the `cast/coercion` issue in the changelog and doc. I would prefer that we use "coercion" everywhere if possible, as @jfehrle suggested.

File: doc/changelog/02-specification-language/15693-reverse-coercions.rst [hunk 36]
```diff
@@ -0,0 +1,8 @@
...
```
Comment (gares) [inline doc/changelog/02-specification-language/15693-reverse-coercions.rst:2]:
```suggestion
  Reversible coercions are coercions which cannot be
```

**Comment by gares** [comment]
done

**Comment by gares** [comment]
ci green

**Comment by mattam82** [comment]
@gares oops, needs a rebase

**Comment by gares** [comment]
rebased together with the overlay

**Comment by ppedrot** [comment]
You should probably ping @mattam82 directly. If he doesn't answer soon, I can take over if needed. It's just a matter of merging it so...

**Comment by gares** [comment]
ping @mattam82 @ppedrot

File: doc/changelog/02-specification-language/15693-reverse-coercions.rst [hunk 37]
```diff
@@ -0,0 +1,8 @@
+- **Added:**
+  Reversible coercions are coercions which cannot be
```
Comment (Zimmi48) [inline doc/changelog/02-specification-language/15693-reverse-coercions.rst:2]: Ideally, the changelog entry should link directly to the relevant documentation.

File: doc/sphinx/addendum/implicit-coercions.rst [hunk 38]
```diff
@@ -113,18 +140,27 @@ term consists of the successive application of its coercions.
...
+  :n:`{? : @class >-> @class }`
+    The source and target classes of the coercion.
+    If unspecified, :n:`@reference` must already be a coercion, which
+    enables modifying the :attr:`reversible` attribute of :n:`@reference`.
+    See the :ref:`example <example-reversible-coercion-attribute>` below.
+
+  .. attr:: reversible{? = {| yes | no } }
+     :name: reversible
+
+     This :term:`attribute` allows the coercion to be used as a reversible
```
Comment (Zimmi48) [inline doc/sphinx/addendum/implicit-coercions.rst:161]: Similarly, as suggested by Ali, it would be good to link from here and from the example to the section describing what reversible coercions are.

**Comment by ppedrot** [comment]
@gares OK, I'm taking over, but before merging I'll wait for the doc tweaks.

**Comment by mattam82** [comment]
@ppedrot I was waiting for the doc changes as well, so whoever comes first when they're here can merge :)

**Comment by gares** [comment]
I'm fine with the changes but I won't be able to work on them today, not tomorrow. @CohenCyril @proux01 if you could step in for that last change...

**Comment by gares** [comment]
Thanks

**Comment by ppedrot** [comment]
@coqbot merge now

**Review by ppedrot — APPROVED** [review]

**Comment by ppedrot** [comment]
@coqbot merge now
